US09403835B2
Step 3: (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(1-isopropyl-pyrrolidin-3-ylmethoxy)-phenyl]-methanone
Sodium triacetoxyborohydride (90 mg; 0.42 mmol; 4 eq.) was added to a solution of (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(pyrrolidin-3-ylmethoxy)-phenyl]-methanone formic acid salt (50 mg; 0.11 mmol; 1 eq.), acetone (47 μL; 0.64 mmol; 6 eq.) and AcOH (7 μL; 0.13 mmol; 1.2 eq.) in DCM (3 mL) and the reaction mixture was stirred at room temperature for 16 hours. The solution was diluted with DCM, washed with sat. aq. NaHCO3, dried over sodium sulfate and concentrated in vacuo. Purification by mass directed preparative HPLC afforded the title compound (47 mg, 76%) as a white solid. 1H NMR (CDCl3) δ 7.44-7.30 (m, 2H), 7.12-6.98 (m, 1H), 6.98-6.87 (m, 1H), 5.07-4.92 (m, 2H), 4.63 (br s, 2H), 4.09-3.86 (m, 2H), 2.88 (d, J=18.2 Hz, 4H), 2.65 (d, J=23.0 Hz, 5H), 2.50-2.05 (m, 3H), 2.04-1.84 (m, 1H), 1.58 (dt, J=13.2, 5.8 Hz, 1H), 1.02-0.81 (m, 6H). HPLC (max plot) 94.3%, Rt 2.92 min. UPLC/MS: (MS+) 468.5 ([M+H]+).

reactant | Sodium triacetoxyborohydride | 0.42 mmol, 90 mg, 4 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(pyrrolidin-3-ylmethoxy)-phenyl]-methanone formic acid salt | 0.11 mmol, 50 mg, 1 eq. | C(=O)O.ClC1=C(N2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(C=CC=C3)OCC3CNCC3)C
reactant | acetone | 0.64 mmol, 47 μL, 6 eq. | CC(=O)C | C3H6O
reactant | AcOH | 0.13 mmol, 7 μL, 1.2 eq. | CC(=O)O | C2H4O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(1-isopropyl-pyrrolidin-3-ylmethoxy)-phenyl]-methanone | 47 mg, 76% | ClC1=C(N2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(C=CC=C3)OCC3CN(CC3)C(C)C)C | C25H30ClN5O2
